Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]#[C:3][O:4][C:5][C:6]([H:7])([H:8])[H:9]>>[C:5][C:6]([H:7])([H:8])[H:9].[H:1][C:2]#[C:3][O:4],2.85846432894
[H:1][C:2]=[C:3]([H:4])[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]#[C:3][C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[H:4],1.98274419511
[H:1][O:2][C:3]([O:4][H:5])=[C:6][H:7].[H:8]>>[H:1][O:2][C:3]([O:4][H:5])=[C:6]([H:7])[H:8],-5.079092532380001
[H:1][C:2]([H:3])([H:4])[C:5]1[O:6][O:7][C@:8]1([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])([H:4])[C:5](=[O:6])[C@:8]([O:7])([H:9])[C:10]([H:11])([H:12])[H:13],-2.8318138642400004
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])=[C:15]([H:16])[H:17]>>[C:10]([H:11])([H:12])[C:13]([H:14])=[C:15]([H:16])[H:17].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])=[C:7]([H:8])[H:9],1.40986186878
[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:11]([H:12])[H:13].[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][H:10],8.635194811849999
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][H:8]>>[H:1][C:2]#[C:3][C:4]([H:5])[O:7][H:8].[H:6],3.6631869914
[C:5](=[C:7]([H:8])[H:9])=[C:10]([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])=[C:4][H:6]>>[H:1][C:2]([H:3])/[C:4]([C:5]([H:6])=[C:7]([H:8])[H:9])=[C:10](/[H:11])[C:12]([H:13])([H:14])[H:15],-2.2319007388
[H:7].[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]([H:3])[C@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[H:11],-4.63943154518
[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[H:11],-3.83692928333
[C:2](#[C:3][O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[O:1]>>[O:1]=[C:2]([C:3][O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-3.86522391181
[C:9]([H:10])[H:11].[H:1][C:2][O:3][C:4]([H:5])[C:6]#[C:7][H:8]>>[H:1][C:2][O:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[C:9]([H:10])[H:11],-5.45349223522
[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[H:1][O:2]/[C:3](=[C:4]\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15].[H:5],4.952847726080001
[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15].[H:1][C:2][O:3][C:4]([H:5])([H:6])[H:7],3.58380692026
[C:1]#[C:2][C:3]([H:4])([H:5])[H:6].[C:7]([H:8])([H:9])[C:10](=[O:11])[H:12]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10](=[O:11])[H:12],-2.98208088887
[C:1]#[C:2][O:3][C:4]([C:5]([H:6])[H:7])=[C:8]([H:9])[H:10]>>[C:1]#[C:2][O:3][C:4]1[C:5]([H:6])([H:7])[C:8]1([H:9])[H:10],0.15107340524
[C:2]([H:3])=[O:10].[O:1]([C:4]#[C:5][C:6]([H:7])([H:8])[H:9])[H:11]>>[O:1]=[C:2]([H:3])/[C:4](=[C:5]/[C:6]([H:7])([H:8])[H:9])[O:10][H:11],-1.86946696312
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([O:8][H:9])=[C:10]([H:11])[H:12]>>[H:3].[O:1]=[C:2][C:4]([H:5])([H:6])[C:7]([O:8][H:9])=[C:10]([H:11])[H:12],3.92053402842
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:9]([H:10])([H:11])[O:12][H:13].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7][H:8],4.64344835214
[H:1][C:2][C:3]1=[C:4]([H:5])[C:6]([H:7])([H:8])[C@@:9]1([H:10])[O:11][H:12]>>[H:1][C:2]/[C:3]([C:4]([H:5])=[C:6]([H:7])[H:8])=[C:9](/[H:10])[O:11][H:12],-0.38964992465
[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18].[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[H:8],3.97912499194
[H:1].[O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-3.6951997868
[O:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:6]([H:7])[C:8]([H:9])([H:10])[H:11].[O:1][O:2][C:3]([H:4])=[C:5],7.700031590239999
[H:12].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]#[C:7][O:8][C:9]([H:10])[H:11]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]#[C:7][O:8][C:9]([H:10])([H:11])[H:12],-4.46798182849
[H:1][C:2]([C:3]#[C:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:3](#[C:4][C:5]([H:6])([H:7])[H:8])[C:11][H:12].[H:1][C:2]=[C:9]([H:10])[H:13],5.52013751604
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])=[C:8]([H:9])[H:10].[H:7],1.84934260545
[C:10]([H:11])([H:12])=[C:13]([H:14])[H:15].[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])[H:9]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-1.3530722172
[H:1][O:2][C:3]([H:4])[H:5].[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-3.59268606499
[C:2]([H:5])=[C:6]([H:7])[H:8].[O:1]=[C:4]=[O:3]>>[O:1]=[C:2][O:3][C:4]([H:5])=[C:6]([H:7])[H:8],0.18701422473
